US07897737B2
2′-deoxyguanosine dG (0.89 g, 3.30 mmol), imidiazole (2.0 g, 29.32 mmol), and TBSCl (2.34 g, 15.55 mmol) were added to anhydrous DMF (8 mL) at 0° C. under a N2 atmosphere. The reaction mixture was gradually warmed to room temperature and stirred overnight. The mixture was then concentrated in vacuo, treated with a mixture of CHCl3 (8 mL) and MeOH (8 mL), concentrated in vacuo, and purified by silica gel chromatography to yield 3′,5′-O-bis-tert-butyldimethylsilyl-2′-deoxyguanosine dG.01 (1.57 g, 96%) as a white powder.

reactant | 2′-deoxyguanosine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12 | C10H13N5O4
reactant | TBSCl | 15.55 mmol, 2.34 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 3′,5′-O-bis-tert-butyldimethylsilyl-2′-deoxyguanosine | [Si](C)(C)(C(C)(C)C)[C@@]1(C[C@@H](O[C@@H]1CO[Si](C)(C)C(C)(C)C)N1C=NC=2C(=O)NC(N)=NC12)O | C22H41N5O4Si2
